US07696223B2
b) 4-Hydroxy-1,9-dimethyl-9H-beta-carboline-3-carboxylic acid ethyl ester
A mixture of 1-bromo-4-hydroxy-9-methyl-9H-beta-carboline-3-carboxylic acid ethyl ester (197 mg), tetramethyl tin (0.094 mL), and Pd(PPh3)2Cl2 (20 mg) in DMF (2 mL) was heated at 120° C. for 45 min. The reaction was then partitioned between EtOAc and water, the organic phase was subsequently washed with sat. NaCl solution, dried over anhydrous sodium sulfate and then filtered, concentrated; the residue was purified with column to give the title compound (118 mg). ESI MS (m/z): 285 (M+H)+.

reactant | 1-bromo-4-hydroxy-9-methyl-9H-beta-carboline-3-carboxylic acid ethyl ester | 197 mg | C(C)OC(=O)C=1N=C(C=2N(C3=CC=CC=C3C2C1O)C)Br | C15H13BrN2O3
reactant | tetramethyl tin | 0.094 mL | C[Sn](C)(C)C
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 20 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Hydroxy-1,9-dimethyl-9H-beta-carboline-3-carboxylic acid ethyl ester | 118 mg | C(C)OC(=O)C=1N=C(C=2N(C3=CC=CC=C3C2C1O)C)C | C16H16N2O3
